US05252747
(2S,4S)-4-t-Butoxycarbonylamino-2-methylpyrrolidine (II)
A 4.500 g (15.50 mmol) sample of (2S,4S)-4-t-butoxycarbonylamino-2-methyl-1-N-benzylpyrrolidine, from Example 2 above, was dissolved in 150 mL of methanol, 0.90 g of 10% Pd/C was added and the mixture shaken under 4 atm of hydrogen at room temperature for 13 hours. The mixture was concentrated, the catalyst was removed by filtration, and the solvent removed to afford 3.081 g of the title compound as a white solid. MS M/Z: 201 (M+H). NMR (CDCl3) δ: 1.15 (d, 3H, J=6 Hz), 1.44 (s, (1H), 1.54-1.63 (m, 2H), 1.75 (m, 1H), 2.64 (dd, 1H, J=5, J=12 Hz), 3.26 (m, 1H), 3.38 (dd, 1H, J=7, J=12 Hz), 4.12 (br, 1H), 4.63 (br, 1H). IR (KBr): 1685 cm-1.

reactant | (2S,4S)-4-t-butoxycarbonylamino-2-methyl-1-N-benzylpyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1C[C@@H](N(C1)CC1=CC=CC=C1)C | C17H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 0.90 g | [Pd] | Pd
product | (2S,4S)-4-t-Butoxycarbonylamino-2-methylpyrrolidine | 3.081 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@@H](NC1)C | C10H20N2O2
